2175-04-12 08:03:00 Physician Resident Progress Note
Chief Complaint: hypoxia
   24 Hour Events:
 MULTI LUMEN - START [**2175-4-11**] 09:30 PM
   left SC
 BLOOD CULTURED - At [**2175-4-12**] 02:00 AM
   - sats improved
   - received extra UF with 2kg removed last night, received 12.5 mg IV
   albumin prior to HD and pressure remained good
   This morning feels much better in terms of breathing. Still coughing
   with intermittent yellow/green sputum production. + abd bloating, no BM
   since yesterday
   Allergies:
   Dicloxacillin
   Rash;
   Mercaptopurine
   Neutropenia; Th
   Last dose of Antibiotics:
   Vancomycin - [**2175-4-12**] 01:51 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2175-4-12**] 02:05 AM
   Heparin Sodium (Prophylaxis) - [**2175-4-12**] 02:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Nutritional Support: NPO, No(t) Tube feeds, Parenteral nutrition
   Respiratory: Cough, Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea
   Genitourinary: No(t) Dysuria
   Musculoskeletal: No(t) Joint pain
   Flowsheet Data as of  [**2175-4-12**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 85 (68 - 92) bpm
   BP: 119/66(78) {112/52(65) - 128/75(86)} mmHg
   RR: 36 (28 - 43) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    181 mL
                                                                    773 mL
   PO:
             TF:
   IVF:
                                                                     25 mL
                                                                    288 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  2,000 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    181 mL
                                                                 -1,227 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 93%
   ABG: ///24/
   Physical Examination
   GEN: pleasant, emaciated, breathing comfortably when sleeping but more
   tachypneic with talking
   HEENT: MM dry
   PULM: crackles bilaterally, diminished BS throughout
   COR: RRR, no murmurs
   ABD: soft, NT/ND
   Ext: no edema
   LIJ: site bloody, still some underlying erythema, no pus expressed
   LToe: not cellulitis
   Labs / Radiology
   CXR: diffuse fluffy patchy/nodular infiltrates bilaterally but more
   significant  in lower lung fields and on the left, diaphragms not
   visualizable
   97 K/uL
   8.6 g/dL
   108 mg/dL
   4.9 mg/dL
   24 mEq/L
   4.8 mEq/L
   63 mg/dL
   107 mEq/L
   140 mEq/L
   27.5 %
   10.0 K/uL
        [image002.jpg]
                             [**2175-4-12**]  01:11 AM
   WBC
   10.0
   Hct
   27.5
   Plt
   97
   Cr
   4.9
   Glucose
   108
   Other labs: PT / PTT / INR:17.3/38.2/1.6, Albumin:2.7 g/dL, Ca++:8.9
   mg/dL, Mg++:2.3 mg/dL, PO4:3.3 mg/dL
   Microbiology: [**4-12**] Blood cx: NGTD
   Assessment and Plan
 MALNUTRITION
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   68 y/o M hx Crohns dz with esophageal involvement, numerous bowel
   resections and short gut syndrome with severe pulmonary disease
   including chronic aspiration, bronchiectasis, hx necrotizing pneumonia,
   hx "indolent MAC" who now presents with severe malnutrition, bilateral
   pulmonary infltrates and worsening hypoxia.
   # Hypoxic respiratory failure: I suspect that his current presentation
   is [**1-16**] aspiration pneumonia; however, he also has several other
   possible etiologies including HAP, fungal infection (given positive
   B-glucan, although not sure if cefazolin is confounding), pulmonary
   edema from volume overload in setting of ESRD and increased TPN. Other
   causes of hypoxia include PE, which is less likely as he is not
   tachycardic, has no pleuritic pain, and no LE swelling. He has not had
   any blood transfusions so not TRALI. His ABG suggests a primary
   respiratory acidosis and hypercarbia despite having a RR in 40's. His
   Aa gradient is elevated.
   - continue meropenam 500 IV Q HD for broad coverage of gm neg and
   anaerobes
   - currently, he is not being adequately covered for atypicals and
   fungals
   - cont Vanc
   - will wait on antifungal at this time
   - repeat induced sputum and send for AFB, fungal, PCP
   [**Name Initial (PRE) **] [**Name Initial (PRE) **]/w pharmacy re: clearance of cefazolin and then resend B-glucan
   - continue acapella valve QID
   - strict NPO
   - consider tapping pulm effusions
   - another regular session of HD today
   # Malnutrition: Has RIJ for TPN
   - TPN recs
   - strict NPO given aspiration risk
   #. ESRD on HD: Currently he does not make urine, HD MWF and will get
   T/Th UF
   - appreciate renal recs
   - normal HD session today
   - will receive 25 gm albumin prior to HD per renal
   - renally dose all meds
   # Toe ulcer: currently does not look cellulitic, but is erythematous.
   He has hx of osteo
   - meropenam will also cover toe ulcer
   # Anemia: Hct was 30's on admission and has slowly trended down to 24.
   No obvious reports of bleeding. Has macrocytosis.
   - guaiac all stools
   - transfuse for HCT<21
   - check B12/folate and iron
   # Thrombocytopenia: PLts for past year have been <100. Unclear
   etiology. Had HIT ab sent this admission after hct decreased to 30. HIT
   negative
   - continue to trend
   - transfuse for plt<10 or bleeding and <50
   # Crohns disease: s/p bowel resections and short gut
   - replete lytes
   - head of bed elevation for severe reflux, lanzoprazole
   - will need to clarify meds for Crohns with wife
   #. Hypothyroid:
   -continue levothyroxine
   # ACCESS: PIV's, RIJ insertion site appears slightly erythematous ->
   will send blood cx through picc and peripherally
   CODE STATUS: Full code
   EMERGENCY CONTACT: [**First Name8 (NamePattern2) **] [**Known lastname 6029**] [**Telephone/Fax (1) 6030**] cell
   ICU Care
   Nutrition:
   TPN without Lipids - [**2175-4-12**] 05:28 AM 62.5 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2175-4-11**] 09:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2175-04-12 08:35:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   resident for the key portions of the services provided.  I agree with
   his/her note, including assessment and plan.  Please see admission H+P
   for complete details.
   Chief Complaint: hypoxemia/respiratory distress.
   HPI: 68 y/o M hx Crohns dz with esophageal involvement, numerous bowel
   resections and short gut syndrome with severe pulmonary disease
   including chronic aspiration, bronchiectasis, hx necrotizing pneumonia,
   hx "indolent [** **]" who now presents with severe malnutrition, bilateral
   pulmonary infltrates and worsening hypoxia.
   He has been on surgical service since [**4-1**]^th, started TPN since
   [**4-6**].  LLE ulcer tx with cephazolin on [**4-6**].
   Worsening cough productive of greenish sputum worsening x-ray on [**4-3**].
   ID/Pulm following.
   ID requested fungal cx to be drawn.
   Started on Clinda [**4-5**] for suspected aspiration.  Changed to meropenem
   on the 25^th.  With continued pulm decline, beta glucan returned >500.
   Only confounding med was albumin.
   Triggered x 2 for desats to 77%
   2L removed with ultrafiltration overnight.
   24 Hour Events:
 MULTI LUMEN - START [**2175-4-11**] 09:30 PM
   left SC
 BLOOD CULTURED - At [**2175-4-12**] 02:00 AM
   Allergies:
   Dicloxacillin
   Rash;
   Mercaptopurine
   Neutropenia; Th
   Last dose of Antibiotics:
   Vancomycin - [**2175-4-12**] 01:51 AM Started last night.
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2175-4-12**] 02:05 AM
   Heparin Sodium (Prophylaxis) - [**2175-4-12**] 08:19 AM
   Other medications:
   Ipr nebs Q6
   Alb Q 6
   Lopressor 5iv Q6 being held
   Synthroid 87 qday
   Mirtazapine
   Hep SQ tid
   [**Last Name (un) 1653**] 1g HD
   PPI Q24
   Meropenem Q24 Started 25th
   Changes to medical and family history:Please see admission H+P
   Review of systems is unchanged from admission except as noted below
   Review of systems: See resident note
   Flowsheet Data as of  [**2175-4-12**] 08:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 81 (68 - 92) bpm
   BP: 114/57(70) {112/52(65) - 128/75(86)} mmHg
   RR: 33 (26 - 43) insp/min
   SpO2: 99% 80% fm
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    181 mL
                                                                    832 mL
   PO:
             TF:
   IVF:
                                                                     25 mL
                                                                    296 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  2,000 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    181 mL
                                                                 -1,168 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 94%
   ABG: ///24/
   Physical Examination
   GEN: pleasant, emaciated, breathing comfortably when sleeping but more
   tachypneic with talking
   HEENT: MM dry
   PULM: Anterior crackles bilaterally, was not able to auscultate
   posterior secondary to dialysis
   COR: RRR, no murmurs
   ABD: soft, NT/ND
   Ext: no edema
   LIJ: site bloody, still some underlying erythema, no pus expressed
   LToe: mild erythema
   Labs / Radiology: Chest/CT reviewed see reports  Progessive
   consolidation on imaging.
   8.6 g/dL
   97 K/uL
   108 mg/dL
   4.9 mg/dL
   24 mEq/L
   4.8 mEq/L
   63 mg/dL
   107 mEq/L
   140 mEq/L
   27.5 %
   10.0 K/uL
        [image002.jpg]
                             [**2175-4-12**]  01:11 AM
   WBC
   10.0
   Hct
   27.5
   Plt
   97
   Cr
   4.9
   Glucose
   108
   Other labs: PT / PTT / INR:17.3/38.2/1.6, Albumin:2.7 g/dL, Ca++:8.9
   mg/dL, Mg++:2.3 mg/dL, PO4:3.3 mg/dL  Albumin on presentation 1.2
   Beta glucan  >500 on [**4-4**]  (pre-cefazolin  per reports but did get
   albumin)
   Galactomannan- negative [**4-4**]
   Micro-Sputum 20^th >25 poly <10 epis sparce GNR growth
   Induced 28^th cancelled
   Induced sent today.
   Blood 21^st, 29^th no growth to date
   Assessment and Plan
   68 y/o M hx Crohns dz with esophageal involvement, numerous bowel
   resections and short gut syndrome with severe pulmonary disease
   including chronic aspiration, bronchiectasis, hx necrotizing pneumonia,
   hx "indolent [**Month/Year (2) **]" who now presents with severe malnutrition, bilateral
   pulmonary infltrates and worsening hypoxia.
   # Hypoxic respiratory failure: I suspect that his current presentation
   is [**1-16**] aspiration pneumonia; however, he also has several other
   possible etiologies including HAP, fungal infection, PCP, [**Name10 (NameIs) **], vrs
   non-infectious etiology BOOP reaction.   As review of imaging has
   demonstrated a slow but progressive pulmonary infiltrates over the last
   4 months.  This would fit with progressive [**Name10 (NameIs) **] infection.
   - continue Vanc and meropenam 500 IV Q HD for broad coverage of gm neg
   and anaerobes
   - currently, he is not being adequately covered for atypicals and
   fungals
   - Will send induced sputum for  AFB, fungal smear and cx, PCP, [**Name10 (NameIs) **]
   stain and cx
   -Will resend beta glucan and galactomannan
   -If gets intubated will bronch and repeat cx
   - continue acapella valve QID
   - strict NPO
   - Continue HD today
   # Malnutrition: Has RIJ for TPN
   - TPN recs
   - Plan for J tube placement
   #. ESRD on HD: Currently he does not make urine
   - appreciate renal recs
   - normal HD session today
   - will receive 25 gm albumin prior to HD per renal
   - renally dose all meds
   # Toe ulcer: currently does not look cellulitic, but is erythematous.
   He has hx of osteo
   - meropenam will also cover toe ulcer
   # Anemia: Hct was 30's on admission and has slowly trended down to 24.
   No obvious reports of bleeding. Has macrocytosis.
   - guaiac all stools
   - transfuse for HCT<21
   - check B12/folate and iron
   # Thrombocytopenia: PLts for past year have been <100. Unclear
   etiology. Had HIT ab sent this admission after hct decreased to 30. HIT
   negative
   - continue to trend
   - transfuse for plt<10 or bleeding and <50
   # Crohns disease: s/p bowel resections and short gut
   - replete lytes
   - head of bed elevation for severe reflux, lanzoprazole
   #. Hypothyroid:
   -continue levothyroxine
   # ACCESS: PIV's, RIJ insertion site appears slightly erythematous ->
   will send blood cx through picc and peripherally
   CODE STATUS: Full code Will need to discuss end of life issues.  Will
   get paliative care involved.
   EMERGENCY CONTACT: [**First Name8 (NamePattern2) **] [**Known lastname 6029**] [**Telephone/Fax (1) 6030**] cell
   ICU Care
   Nutrition:
   TPN without Lipids - [**2175-4-12**] 05:28 AM 62.5 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2175-4-11**] 09:30 PM
   Prophylaxis:
   DVT:  Heprin
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:
   ------ Protected Section ------
   68 y/o M hx Crohns dz with esophageal involvement, numerous bowel
   resections and short gut syndrome with severe pulmonary disease
   including chronic aspiration, bronchiectasis, hx necrotizing pneumonia,
   hx "indolent [**Year (4 digits) **]" who now presents with severe malnutrition, bilateral
   pulmonary infltrates and worsening hypoxia.
   Chart, radiology reviewed. Exam as above. 115/58, HR 85, sat 93% on 50%
   mask O2. Alert, oriented, cachectic. Crackles heard bilaterally. HS
   regular without murmurs. Abd soft, nontender. Ext no edema.
   IMP
   - Hypoxic acute/chronic respiratory failure: agree with continued
   dialysis with UF to remove fluid. Agree that his acute worsening is
   likely due to aspiration as well as possible volume overload (pleural
   effusion tapped in [**Month (only) **] was transudate). Other etiologies include HAP,
   fungal infection, PCP, [**Name10 (NameIs) **], vs non-infectious etiology.
   Agree with Vanc and meropenem 500 IV QHD
   Will send induced sputum for  AFB, fungal smear and cx, PCP, [**Name10 (NameIs) **] stain
   and cx
   Will resend beta glucan and galactomannan
   If gets intubated will bronch and repeat cx, continue acapella valve
   QID
   Got HD with UF today
   - Malnutrition: Has RIJ for TPN, plan for J tube placement
   - ESRD on HD: anuric, Got HD session today
   - Other issues include anemia, thrombocytopenia, Crohn
s s/p bowel
   resections and short gut
   Patient was seen by Dr [**First Name (STitle) 4012**] of palliative care. Her input and
   discussion with Mrs [**Known lastname 6029**] is much appreciated. Mr [**Known lastname 6029**] would
   like to have a full chance of recovering back to his previous level of
   functioning
 i.e. was able to drive on day prior to admission. He
   remains full code but would not want to be trached, vent dependent,
   etc.
   Patient is critically ill. Total time 45 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 366**] [**Last Name (NamePattern1) 15**], MD
   on:[**2175-4-12**] 16:18 ------

2175-04-13 07:29:00 Physician Resident Progress Note
Chief Complaint: hypoxia
   24 Hour Events:
   [**4-12**]
   - Induced sputum sent for culture, PCP, [**Name Initial (NameIs) 688**]: PCP neg
   [**Name Initial (PRE) **] ordered for one unit PRBC to be given with dialysis [**4-13**]
   - got 1g Vanc after dialysis for trough 8
   - added azithromycin for atypical coverage
   - palliative care consulted, talked with patient who feels strongly
   about full code and hopes for recovery to functional status.  Patient
   did verbalize that if no hope of returning to state of being able to
   walk/talk would not want to be sustained long term on ventillator etc.
   - wife requesting family meeting tomorrow but w/o pt [**Name (NI) **]. [**Last Name (STitle) 6071**]
   available in the AM only)
   This morning, he reports feeling slightly better in terms of breathing.
   Still coughing green sputum, no blood. No chest pain, palpitations,
   fever, chills. + mild diarrhea, but unchanged.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical recordsDicloxacillin
   Rash;
   Mercaptopurine
   Neutropenia; Th
   Last dose of Antibiotics:
   D 2 Vancomycin - [**2175-4-12**] 12:14 PM
   D 5 Meropenem - [**2175-4-12**] 03:42 PM
   D 2 Azithromycin - [**2175-4-12**] 04:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2175-4-13**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2175-4-13**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Weight loss
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, Parenteral nutrition
   Respiratory: Cough, Dyspnea, Tachypnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   Diarrhea, No(t) Constipation
   Pain: [**12-16**] Minimal
   Flowsheet Data as of  [**2175-4-13**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.9
C (96.6
   HR: 76 (74 - 98) bpm
   BP: 120/63(77) {101/37(55) - 131/77(84)} mmHg
   RR: 25 (25 - 45) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,500 mL
                                                                    416 mL
   PO:
             TF:
   IVF:
                                                                  1,000 mL
                                                                     82 mL
   Blood products:
   Total out:
                                                                  3,300 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -800 mL
                                                                    416 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   GEN: pleasant, still using some accessory muscles to breath, but more
   comfortable than yesterday, + wet cough
   HEENT: MMM
   PULM: crackles bilaterally
   COR: RRR, no murmurs
   ABD: soft, NT/ND
   EXT: numerous bruises, no edema, no rash
   L sublavian line: site still slightly erythematous, no drainage/pus
   Labs / Radiology
   152 K/uL
   8.0 g/dL
   105 mg/dL
   3.5 mg/dL
   28 mEq/L
   4.1 mEq/L
   40 mg/dL
   103 mEq/L
   138 mEq/L
   25.7 %
   7.5 K/uL
        [image002.jpg]
                             [**2175-4-12**]  01:11 AM
                             [**2175-4-13**]  04:04 AM
   WBC
   10.0
   7.5
   Hct
   27.5
   25.7
   Plt
   97
   152
   Cr
   4.9
   3.5
   Glucose
   108
   105
   Other labs: PT / PTT / INR:17.5/39.7/1.6, Differential-Neuts:80.0 %,
   Band:3.0 %, Lymph:3.0 %, Mono:9.0 %, Eos:3.0 %, Albumin:2.7 g/dL,
   Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.2 mg/dLCXR:
   Fluid analysis / Other labs:
   [**4-12**]: repeat BGlucan and galactomannan pending (although drawn after
   receiving albumin)
   B12/folate: 1155/16
   Ferritin: 433
   Cortisol: 21.2
   Vanc: 29
   Imaging: CXR: Bilateral large consolidations
   involving both lung bases and left upper lung, unchanged compared to
   prior
   Microbiology: [**2175-4-12**] 6:19 am SPUTUM      Source: Induced.
      GRAM STAIN (Final [**2175-4-12**]):
         >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S).
      RESPIRATORY CULTURE (Preliminary):
      Immunoflourescent test for Pneumocystis jirovecii (carinii) (Final
         [**2175-4-12**]):    NEGATIVE for Pneumocystis jirovecii (carinii)..
      FUNGAL CULTURE (Preliminary):
      ACID FAST SMEAR (Preliminary):
      ACID FAST CULTURE (Preliminary):
   Assessment and Plan
 MALNUTRITION
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   68 y/o M hx Crohns dz with esophageal involvement, numerous bowel
   resections and short gut syndrome with severe pulmonary disease
   including chronic aspiration, bronchiectasis, hx necrotizing pneumonia,
   hx "indolent MAC" who now presents with severe malnutrition, bilateral
   pulmonary infltrates and worsening hypoxia.
   # Hypoxic respiratory failure: Currently unclear etiology for his
   severe consolidations and hypoxia. It is likely multifactorial etiology
   including aspiration pneumonia, +/-HAP, fungal infection (given
   positive B-glucan, abumin will confound the test), pulmonary edema from
   volume overload in setting of ESRD and increased TPN. MAC is also
   possible given his relative immunocompromised state.  PCP [**Name Initial (PRE) 419**]. PE
   unlikely as he is not tachycardic, has no pleuritic pain, and no LE
   swelling. He has not had any blood transfusions so not TRALI. His ABG
   suggests a primary respiratory acidosis and hypercarbia despite having
   a RR in 40's. His Aa gradient is elevated.
   - continue meropenam 500 IV Q HD for broad coverage of gm neg and
   anaerobes
   - cont Vanc for HAP, azithro for atypicals
   - currently, he is not being adequately covered for fungals
   - f/u cx data including induced sputum [**Name Initial (PRE) 688**], fungal, blood cx
   - strict NPO
   - UF session today to help with pulm edema
   # Malnutrition: Has RIJ for TPN
   - TPN recs
   - strict NPO given aspiration risk
   #. ESRD on HD: Currently he does not make urine, HD MWF and will get
   T/Th UF
   - appreciate renal recs
   - normal HD session today
   - will receive albumin prior to HD per renal
   - renally dose all meds
   # Toe ulcer: currently does not look cellulitic, but is erythematous.
   He has hx of osteo
   - meropenam will also cover toe ulcer
   # Anemia: Hct was 30's on admission and has slowly trended down to 24.
   No obvious reports of bleeding. He does not have iron or B12/folate
   deficiency, and thus is most likely anemia of chronic disease
   - guaiac all stools
   - transfuse today with HD
   # Thrombocytopenia: PLts for past year have been <100. Unclear
   etiology. Had HIT ab sent this admission after hct decreased to 30. HIT
   negative
   - continue to trend
   - transfuse for plt<10 or bleeding and <50
   # Crohns disease: s/p bowel resections and short gut
   - replete lytes
   - head of bed elevation for severe reflux, lanzoprazole
   - will need to clarify meds for Crohns with wife
   #. Hypothyroid:
   -continue levothyroxine
   # ACCESS: PIV's,
   - L subclavian insertion site still appears slightly erythematous , but
   no growth from blood cultures sent peripherally or through line
   CODE STATUS: Full code
   - appreciate palliative care recs
   EMERGENCY CONTACT: [**First Name8 (NamePattern2) **] [**Known lastname 6029**] [**Telephone/Fax (1) 6030**] cell
   ICU Care
   Nutrition:
   Comments: TPN
   Glycemic Control:
   Lines:
   Multi Lumen - [**2175-4-11**] 09:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held  Comments:
   Code status: Full code
   Disposition:ICU

2175-04-13 08:03:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   resident for the key portions of the services provided.  I agree with
   his/her note, including assessment and plan
   Chief Complaint: hypoxemia/respiratory distress and worsening pulmonary
   infiltrates.
   HPI: 68 y/o M hx Crohns dz with esophageal involvement, numerous bowel
   resections and short gut syndrome with severe pulmonary disease
   including chronic aspiration, bronchiectasis, hx necrotizing pneumonia,
   hx "indolent [** **]" who now presents with severe malnutrition, bilateral
   pulmonary infltrates and worsening hypoxia.
   24 Hour Events:
   PCP negative, AFB pending
   1 gm vanc dialysis
   Added azithromycin
   Family meeting still full code and wants aggressive measures but would
   not want to be chronically vented
   Still producing green sputum and diarrhea.
   Allergies:
   Dicloxacillin
   Rash;
   Mercaptopurine
   Neutropenia; Th
   Last dose of Antibiotics:
   Day #2 Vancomycin - [**2175-4-12**] 12:14 PM
   Day #5 Meropenem - [**2175-4-12**] 03:42 PM
   Day 2 Azithromycin - [**2175-4-12**] 04:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2175-4-13**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2175-4-13**] 07:36 AM
   Other medications:
   Ipr nebs Q6
   Alb Q 6
   Lopressor 5iv Q6 being held
   Synthroid 87mcg qday
   Mirtazapine
   Hep SQ tid
   [**Last Name (un) 1653**] 1g HD
   PPI Q24
   Meropenem Q24 Started 25th
   Changes to medical and family history:
   See H+P no changes.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-4-13**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.7
C (96.2
   HR: 97 (74 - 98) bpm
   BP: 117/51(67) {101/37(55) - 131/77(84)} mmHg
   RR: 27 (25 - 45) insp/min
   SpO2: 88% on 50%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,500 mL
                                                                    425 mL
   PO:
             TF:
   IVF:
                                                                  1,000 mL
                                                                     91 mL
   Blood products:
   Total out:
                                                                  3,300 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -800 mL
                                                                    425 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 92%
   ABG: ///28/
   Physical Examination
   GEN: pleasant, emaciated, breathing comfortably when sleeping but more
   tachypneic with talking using accessory muscles
   HEENT: MM dry
   PULM: Anterior crackles bilaterally
   COR: RRR, no murmurs
   ABD: soft, NT/ND
   Ext: no edema
   LIJ: site bloody, still some underlying erythema, no pus expressed
   LToe: mild erythema
   Labs / Radiology: Chest port: line in place, Dense
   8.0 g/dL
   152 K/uL
   105 mg/dL
   3.5 mg/dL
   28 mEq/L
   4.1 mEq/L
   40 mg/dL
   103 mEq/L
   138 mEq/L
   25.7 %
   7.5 K/uL
        [image002.jpg]
                             [**2175-4-12**]  01:11 AM
                             [**2175-4-13**]  04:04 AM
   WBC
   10.0
   7.5
   Hct
   27.5
   25.7
   Plt
   97
   152
   Cr
   4.9
   3.5
   Glucose
   108
   105
   Other labs: PT / PTT / INR:17.5/39.7/1.6, Differential-Neuts:80.0 %,
   Band:3.0 %, Lymph:3.0 %, Mono:9.0 %, Eos:3.0 %, Albumin:2.7 g/dL,
   Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   beta glucan and galactomannan pending
   Cortisol 21, vanc 21
   Micro-Sputum->25Poly
   1+GPC pair clusters
   1+Gram + rods
   Budding yeast with pseudohype
   Cytology pending
   Assessment and Plan
   68 y/o M hx Crohns dz with esophageal involvement, numerous bowel
   resections and short gut syndrome with severe pulmonary disease
   including chronic aspiration, bronchiectasis, hx necrotizing pneumonia,
   hx "indolent [**Year (4 digits) **]" who now presents with severe malnutrition, bilateral
   pulmonary infltrates and worsening hypoxia.
   # Hypoxic respiratory failure: I suspect that his current presentation
   is [**1-16**] aspiration pneumonia; however, he also has several other
   possible etiologies including HAP, fungal infection, [**Month/Day (2) **],
   non-infectious etiology BOOP reaction, malignancy and component of
   volume overload.   As review of imaging has demonstrated a slow but
   progressive pulmonary infiltrates over the last 4 months.
   - continue Vanc, meropenam and azitho
   - currently, he is not being adequately covered for atypicals and
   fungals
   - F/U  sputum for  AFB, fungal smear and cx, and cytology
   - F/U beta glucan and galactomannan
   -If gets intubated will bronch and repeat cx
   - continue acapella valve QID
   - strict NPO
   - Continue HD today
   # Malnutrition: Has RIJ for TPN
   - TPN recs
   - Plan for J tube placement pending
   #. ESRD on HD: Currently he does not make urine
   - appreciate renal recs
   - normal HD session today
   - will receive 25 gm albumin prior to HD per renal
   - renally dose all meds
   # Toe ulcer: currently does not look cellulitic, but is erythematous.
   He has hx of osteo
   - meropenam will also cover toe ulcer
   # Anemia: Hct was 30's on admission and has slowly trended down to 24.
   No obvious reports of bleeding. Has macrocytosis.
   - guaiac all stools
   - transfuse for HCT<21
   - check B12/folate and iron
   # Thrombocytopenia: PLts for past year have been <100. Unclear
   etiology. Had HIT ab sent this admission after hct decreased to 30. HIT
   negative
   - continue to trend
   - transfuse for plt<10 or bleeding and <50
   # Crohns disease: s/p bowel resections and short gut
   - replete lytes
   - head of bed elevation for severe reflux, lanzoprazole
   #. Hypothyroid:
   -continue levothyroxine
   # ACCESS: PIV's, RIJ insertion site appears slightly erythematous ->
   will send blood cx through picc and peripherally
   #CODE STATUS: Full code.  Paliative care involved and had discussions
   with Mr. [**Known lastname 6029**].
   #EMERGENCY CONTACT: [**First Name8 (NamePattern2) **] [**Known lastname 6029**] [**Telephone/Fax (1) 6030**] cell
   ICU Care
   Nutrition: TPN
   Glycemic Control:
   Lines:
   Multi Lumen - [**2175-4-11**] 09:30 PM
   Prophylaxis:
   DVT: Heprin
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:
   ------ Protected Section ------
   Attending Note:
   I was physically present with the resident team and independently
   examined the patient on this date.  I agree with the findings as
   described above including history, exam, ROS, Fam Hx and assessment and
   plan.  I would add/emphasize the following:
   68 y/o M hx Crohns dz with esophageal involvement, numerous bowel
   resections and short gut syndrome with severe pulmonary disease
   including chronic aspiration, bronchiectasis, hx necrotizing pneumonia,
   hx  "indolent [**Year (4 digits) **]" not confirmed on micro, who now presents with severe
   malnutrition, bilateral pulmonary infltrates and worsening hypoxia.
   Events include UF and prbc transfusion today. Exam unchanged. 100/54,
   HR 74, sat 96% on 50% HF mask O2. Alert, oriented, cachectic. Crackles
   heard bilaterally. HS regular without murmurs. Abd soft, nontender. Ext
   no edema.
   IMP
   - Hypoxic acute/chronic respiratory failure: agree with continued
   dialysis with UF to remove fluid. Agree that his acute worsening is
   likely due to aspiration exacerbated by volume overload (pleural
   effusion tapped in [**Month (only) **] was transudate). Other etiologies include
   pneumonia, [**Month (only) **] disease, HAP, PCP, [**Name10 (NameIs) **], or other atypical infection.
   Agree with Vanc, meropenem 500 IV QHD, Azithro
   F/u induced sputum for  AFB, fungal smear and cx. PCP neg but not
   sensitive test. Gram stain shows GPC and GPR.
   F/u beta glucan and galactomannan
   If gets intubated will bronch and repeat cx, continue acapella valve
   QID
   - Severe Malnutrition: Has RIJ for TPN, plan for eventual J tube
   placement
   - ESRD on HD: anuric
   - Other issues include anemia, thrombocytopenia, Crohn
s s/p bowel
   resections and short gut
   He remains full code but would not want to be trached, vent dependent,
   etc.
   Patient is critically ill. Total time 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 366**] [**Last Name (NamePattern1) 15**], MD
   on:[**2175-4-13**] 16:43 ------

2175-04-14 07:58:00 Physician Resident Progress Note
Chief Complaint: hypoxia
    Notes that breathing is less difficult
   24 Hour Events:
   /30
   - wife requesting family meeting tomorrow with daughter in early
   afternoon
   - received transfusion with UF
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical recordsDicloxacillin
   Rash;
   Mercaptopurine
   Neutropenia; Th
   Last dose of Antibiotics:
   D3 Vancomycin - [**2175-4-12**] 12:14 PM
   D3 Azithromycin - [**2175-4-13**] 04:00 PM
   D6 Meropenem - [**2175-4-13**] 05:36 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-4-14**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 73 (71 - 102) bpm
   BP: 119/62(75) {94/49(62) - 123/77(82)} mmHg
   RR: 24 (18 - 39) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,450 mL
                                                                    398 mL
   PO:
             TF:
   IVF:
                                                                    600 mL
                                                                     79 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  2,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    450 mL
                                                                    398 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   GEN: pleasant, still using some accessory muscles to breath, but more
   comfortable than yesterday, + wet cough
   HEENT: MMM
   PULM: crackles bilaterally, ? improved
   COR: RRR, no murmurs
   ABD: soft, NT/ND
   EXT: numerous bruises, no edema, no rash
   L sublavian line: site still slightly erythematous, no drainage/pus
   Labs / Radiology
   195 K/uL
   9.4 g/dL
   98 mg/dL
   4.8 mg/dL
   25 mEq/L
   4.1 mEq/L
   57 mg/dL
   103 mEq/L
   137 mEq/L
   29.7 %
   8.2 K/uL
        [image002.jpg]
                             [**2175-4-12**]  01:11 AM
                             [**2175-4-13**]  04:04 AM
                             [**2175-4-14**]  05:31 AM
   WBC
   10.0
   7.5
   8.2
   Hct
   27.5
   25.7
   29.7
   Plt
   97
   152
   195
   Cr
   4.9
   3.5
   4.8
   Glucose
   108
   105
   98
   Other labs: PT / PTT / INR:15.9/38.8/1.4, Differential-Neuts:80.0 %,
   Band:3.0 %, Lymph:3.0 %, Mono:9.0 %, Eos:3.0 %, Albumin:2.7 g/dL,
   Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   [**4-12**]: repeat galactomannan, B glucan :pending
[**2175-4-12**] 6:19 am SPUTUM      Source: Induced.
   GRAM STAIN (Final [**2175-4-12**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S).
   RESPIRATORY CULTURE (Preliminary):
      SPARSE GROWTH OROPHARYNGEAL FLORA.
      YEAST.    MODERATE GROWTH.
   Immunoflourescent test for Pneumocystis jirovecii (carinii) (Final
      [**2175-4-12**]):    NEGATIVE for Pneumocystis jirovecii (carinii)..
   FUNGAL CULTURE (Preliminary):
   ACID FAST SMEAR (Final [**2175-4-13**]):
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR.
   ACID FAST CULTURE (Preliminary):
[**2175-4-3**] 9:17 pm SPUTUM      Source: Expectorated.
                            **FINAL REPORT [**2175-4-5**]**
   GRAM STAIN (Final [**2175-4-4**]):
      >25 PMNs and <10 epithelial cells/100X field.
      3+  (5-10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
   RESPIRATORY CULTURE (Final [**2175-4-5**]):
      MODERATE GROWTH OROPHARYNGEAL FLORA.
      GRAM NEGATIVE ROD(S).    SPARSE GROWTH.
   Assessment and Plan
 MALNUTRITION
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   68 y/o M hx Crohns dz with esophageal involvement, numerous bowel
   resections and short gut syndrome with severe pulmonary disease
   including chronic aspiration, bronchiectasis, hx necrotizing pneumonia,
   hx "indolent MAC" who now presents with severe malnutrition, bilateral
   pulmonary infltrates and worsening hypoxia.
   # Hypoxic respiratory failure:  marginally improved. [**Month (only) 453**] O2 requirement
   and pt feels less dyspnic. Currently unclear etiology for his severe
   consolidations and hypoxia. It is likely multifactorial etiology
   including aspiration pneumonia, +/-HAP, fungal infection (given
   positive B-glucan, abumin will confound the test), pulmonary edema from
   volume overload in setting of ESRD and increased TPN. MAC is also
   possible given his relative immunocompromised state.  PCP [**Name Initial (PRE) 419**]. PE
   unlikely as he is not tachycardic, has no pleuritic pain, and no LE
   swelling. He has not had any blood transfusions so not TRALI. His ABG
   suggests a primary respiratory acidosis and hypercarbia despite having
   a RR in 40's. His Aa gradient is elevated.
   - continue meropenam 500 IV Q HD for broad coverage of gm neg and
   anaerobes
   - cont Vanc/ Meropenem for HAP, azithro for atypicals
   - currently, he is not being covered for fungals
   - appreciate ID input
   - f/u cx data including induced sputum AFB, fungal, blood cx
   - strict NPO
   # Malnutrition: Has subclavianfor TPN
   - TPN recs
   - strict NPO given aspiration risk
   - at this point, he may not be able to tolerate an open J tube
   placement which would require intubation
   #. ESRD on HD: Currently he does not make urine, HD MWF and will get
   T/Th UF
   - appreciate renal recs
   - normal HD session today
   - will receive albumin prior to HD per renal
   - renally dose all meds
   # Toe ulcer: currently does not look cellulitic, but is erythematous.
   He has hx of osteo
   - meropenam will also cover toe ulcer
   # Anemia: Hct was 30's on admission and has slowly trended down to 24.
   No obvious reports of bleeding. He does not have iron or B12/folate
   deficiency, and thus is most likely anemia of chronic disease
   - guaiac all stools
   - transfuse today with HD
   # Thrombocytopenia: PLts for past year have been <100. Unclear
   etiology. Had HIT ab sent this admission after hct decreased to 30. HIT
   negative
   - continue to trend
   - transfuse for plt<10 or bleeding and <50
   # Crohns disease: s/p bowel resections and short gut
   - replete lytes
   - head of bed elevation for severe reflux, lanzoprazole
   #. Hypothyroid:
   -continue levothyroxine
   # ACCESS: PIV's,
   - L subclavian insertion site still appears slightly erythematous , but
   no growth from blood cultures sent peripherally or through line
   CODE STATUS: Full code
   - appreciate palliative care recs
   EMERGENCY CONTACT: [**First Name8 (NamePattern2) **] [**Known lastname 6029**] [**Telephone/Fax (1) 6030**] cell
   ICU Care
   Nutrition: TPN
   Glycemic Control:
   Lines:
   Multi Lumen - [**2175-4-11**] 09:30 PM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: call out

2175-04-14 07:58:00 Physician Attending Progress Note
I have seen and examined the patient, and was physically present with
   the ICU resident for the key portions of the services provided.  I
   agree with his/her note, including assessment and plan
   Chief Complaint: hypoxemia/respiratory distress and worsening pulmonary
   infiltrates.
   HPI: 68 y/o M hx Crohns dz with esophageal involvement, numerous bowel
   resections and short gut syndrome with severe pulmonary disease
   including chronic aspiration, bronchiectasis, hx necrotizing pneumonia,
   hx "indolent MAC" who now presents with severe malnutrition, bilateral
   pulmonary infltrates and worsening hypoxia.
   24 Hour Events:
   No events
   Wife requested family meeting with daughter today in the early
   afternoon.
   States he feels better.
   Allergies:
   Dicloxacillin
   Rash;
   Mercaptopurine
   Neutropenia; Th
   Last dose of Antibiotics:
   Day#3  Vancomycin - [**2175-4-12**] 12:14 PM
   Day#3  Azithromycin - [**2175-4-13**] 04:00 PM
   Day#6  Meropenem - [**2175-4-13**] 05:36 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2175-4-14**] 07:56 AM
   Other medications:
   Ipr nebs Q6
   Alb Q 6
   Lopressor 5iv Q6 being held (d
c today)
   Synthroid 87mcg qday
   Mirtazapine
   Hep SQ tid
   [**Last Name (un) 1653**] 1g HD
   PPI Q24
   Meropenem Q24 Started 25th
   Changes to medical and family history:
   No changes
   Review of systems is unchanged from admission except as noted below
   Review of systems:feels better
   Flowsheet Data as of  [**2175-4-14**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.1
C (97
   HR: 87 (71 - 102) bpm
   BP: 116/60(73) {94/49(62) - 123/77(82)} mmHg
   RR: 33 (18 - 39) insp/min
   SpO2: 95% on 60% HF
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,450 mL
                                                                    578 mL
   PO:
             TF:
   IVF:
                                                                    600 mL
                                                                     80 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  2,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    450 mL
                                                                    578 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 90%
   ABG: ///25/
   Physical Examination
   GEN: pleasant, emaciated, breathing comfortably when sleeping
   tachypneic using accessory muscles less
   HEENT: MM dry
   PULM: Anterior crackles bilaterally No BS on left [**1-17**] way up and rales
   top [**12-17**], decreased BS right base and rales lower right lung fields
   COR: RRR, no murmurs
   ABD: soft, NT/ND
   Ext: no edema
   LIJ: site bloody, still some underlying erythema, no pus expressed
   LToe: mild erythema
   Labs / Radiology: Chest port unchanged dense consolidation at bases
   left much greater than right.
   9.4 g/dL
   195 K/uL
   98 mg/dL
   4.8 mg/dL
   25 mEq/L
   4.1 mEq/L
   57 mg/dL
   103 mEq/L
   137 mEq/L
   29.7 %
   8.2 K/uL
        [image002.jpg]
                             [**2175-4-12**]  01:11 AM
                             [**2175-4-13**]  04:04 AM
                             [**2175-4-14**]  05:31 AM
   WBC
   10.0
   7.5
   8.2
   Hct
   27.5
   25.7
   29.7
   Plt
   97
   152
   195
   Cr
   4.9
   3.5
   4.8
   Glucose
   108
   105
   98
   Other labs: PT / PTT / INR:15.9/38.8/1.4, Differential-Neuts:80.0 %,
   Band:3.0 %, Lymph:3.0 %, Mono:9.0 %, Eos:3.0 %, Albumin:2.7 g/dL,
   Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   beta glucan and galactomannan pending
   Cortisol 21, vanc 21
   Induced sputum afb negative and PCP negative
   [**Name9 (PRE) 6091**]->25Poly
   1+GPC pair clusters
   1+Gram + rods
   Budding yeast with pseudohype
   Cytology pending
   Assessment and Plan
   68 y/o M hx Crohns dz with esophageal involvement, numerous bowel
   resections and short gut syndrome with severe pulmonary disease
   including chronic aspiration, bronchiectasis, hx necrotizing pneumonia,
   hx "indolent MAC" who now presents with severe malnutrition, bilateral
   pulmonary infltrates and worsening hypoxia.
   # Hypoxic respiratory failure: I suspect that his current presentation
   is [**1-16**] aspiration pneumonia; however, he also has several other
   possible etiologies including HAP, fungal infection, MAC,
   non-infectious etiology BOOP reaction, malignancy and component of
   volume overload.   As review of imaging has demonstrated a slow but
   progressive pulmonary infiltrates over the last 4 months.
   - continue Vanc, meropenam and azitho
   - currently, he is not being adequately covered for atypicals such as
   MAC and fungals
   - F/U  sputum for  AFB, fungal smear and cx, and cytology
   - F/U beta glucan and galactomannan
   -Will discuss bronch +/- Biopsy and repeat cx
   - continue acapella valve QID
   -Will review Scans with radiology today
   -If all cx negative will consider emperic steroids.
   - strict NPO
   - Continue HD today
   # Malnutrition: Has RIJ for TPN
   - TPN recs
   - J tube would be optimal for nutrition but high risk procedure
   #. ESRD on HD: Currently he does not make urine
   - appreciate renal recs
   - normal HD session today
   - will receive 25 gm albumin prior to HD per renal
   - renally dose all meds
   # Toe ulcer: currently does not look cellulitic, but is erythematous.
   He has hx of osteo
   - meropenam will also cover toe ulcer
   # Anemia: Hct was 30's on admission and has slowly trended down to 24.
   No obvious reports of bleeding. Has macrocytosis.
   - guaiac all stools
   - transfuse for HCT<21
   - check B12/folate and iron
   # Thrombocytopenia: PLts for past year have been <100. Unclear
   etiology. Had HIT ab sent this admission after hct decreased to 30. HIT
   negative
   - continue to trend
   - transfuse for plt<10 or bleeding and <50
   # Crohns disease: s/p bowel resections and short gut
   - replete lytes
   - head of bed elevation for severe reflux, lanzoprazole
   #. Hypothyroid:
   -continue levothyroxine
   # ACCESS: PIV's, RIJ insertion site appears slightly erythematous ->
   will send blood cx through picc and peripherally
   #CODE STATUS: Full code.  Paliative care involved and had discussions
   with Mr. [**Known lastname 6029**]. Wife requests family meeting today.
   #EMERGENCY CONTACT: [**First Name8 (NamePattern2) **] [**Known lastname 6029**] [**Telephone/Fax (1) 6030**] cell
   For emphasis, I would also add:
   - Hypoxic acute/chronic respiratory failure: agree with continued
   dialysis with UF to remove fluid. The acute worsening is likely due to
   aspiration exacerbated by volume overload (pleural effusion tapped in
   [**Month (only) **] was transudate). Other etiologies include atypical pneumonia,
   fungal, MAC disease, HAP, PCP.
   [**Name Initial (NameIs) **] [**Name11 (NameIs) 5627**] Malnutrition: Has RIJ for TPN, plan for eventual J tube
   placement
   Agree with Vanc, meropenem 500 IV QHD, Azithro
   F/u induced sputum for  AFB, fungal smear and cx. PCP neg but not
   sensitive test. Gram stain shows GPC and GPR.
   F/u beta glucan and galactomannan
   Dr [**Last Name (STitle) 5967**] had a long discussion with Mr [**Known lastname 6029**] and his wife [**Name (NI) **].
   I was present during a second discussion with Mr [**Known lastname 6029**] alone. His
   wishes are clearly that he would not want to continue living in his
   current state. When intubation and CPR was discussed, he was also clear
   that he would not want  either given that any additional event would
   likely not allow him to achieve the recovery he is hoping for. Mr
   [**Known lastname 6029**] is now DNR/DNI. Wife and children are updated.
   50 minutes of critical care time.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2175-4-14**] 05:01 AM 62.5 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2175-4-11**] 09:30 PM
   Prophylaxis:
   DVT:  hep SQ
   Stress ulcer:  PPI
   Communication:  Comments:
   Code status: Full code
   Disposition : Will plan on sending back to the floor pending decision
   to bronch.

2175-04-15 08:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: hypoxic resp distress
   24 Hour Events:
   - several family meetings with pt, family, and MDs. See Lee's note, but
   he is now DNR/DNI
   - ID recs: continue the course
   - renal to continue HD/UF daily
   - will not bronch as he is at risk for not extubating
   Allergies:
   Dicloxacillin
   Rash;
   Mercaptopurine
   Neutropenia; Th
   Last dose of Antibiotics:
   Vancomycin - [**2175-4-14**] 05:13 PM
   Meropenem - [**2175-4-14**] 06:12 PM
   Azithromycin - [**2175-4-14**] 06:14 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2175-4-15**] 12:21 AM
   Heparin Sodium (Prophylaxis) - [**2175-4-15**] 08:03 AM
   Other medications:
   Flowsheet Data as of  [**2175-4-15**] 08:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (97
   HR: 77 (68 - 91) bpm
   BP: 121/65(79) {101/41(59) - 136/71(84)} mmHg
   RR: 25 (24 - 37) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  2,243 mL
                                                                    596 mL
   PO:
             TF:
   IVF:
                                                                    740 mL
                                                                     91 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    243 mL
                                                                    596 mL
   Respiratory support
   O2 Delivery Device: 50% High flow nasal cannula
   SpO2: 98%
   ABG: ///30/
   Physical Examination
   GEN: pleasant
   HEENT: MMM
   PULM: coarse breath sounds ant
   COR: RRR, no murmurs
   ABD: soft, NT/ND
   EXT: numerous bruises, no edema, no rash
   L sublavian line: site still slightly erythematous, no drainage/pus
   Labs / Radiology
   195 K/uL
   9.5 g/dL
   99 mg/dL
   3.3 mg/dL
   30 mEq/L
   3.4 mEq/L
   33 mg/dL
   101 mEq/L
   137 mEq/L
   29.6 %
   8.2 K/uL
        [image002.jpg]
                             [**2175-4-12**]  01:11 AM
                             [**2175-4-13**]  04:04 AM
                             [**2175-4-14**]  05:31 AM
                             [**2175-4-15**]  04:15 AM
   WBC
   10.0
   7.5
   8.2
   8.2
   Hct
   27.5
   25.7
   29.7
   29.6
   Plt
   97
   152
   195
   195
   Cr
   4.9
   3.5
   4.8
   3.3
   Glucose
   108
   105
   98
   99
   Other labs: PT / PTT / INR:16.2/42.1/1.4, Differential-Neuts:78.9 %,
   Band:0.0 %, Lymph:6.5 %, Mono:11.3 %, Eos:2.2 %, Albumin:2.7 g/dL,
   Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 MALNUTRITION
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   68 y/o M hx Crohns dz with esophageal involvement, numerous bowel
   resections and short gut syndrome with severe pulmonary disease
   including chronic aspiration, bronchiectasis, hx necrotizing pneumonia,
   hx "indolent MAC" who now presents with severe malnutrition, bilateral
   pulmonary infltrates and worsening hypoxia.
   # Hypoxic respiratory failure: Currently unclear etiology for his
   severe consolidations and hypoxia. It is likely multifactorial etiology
   including aspiration pneumonia, +/-HAP, fungal infection (given
   positive B-glucan, abumin will confound the test), pulmonary edema from
   volume overload in setting of ESRD and increased TPN. MAC is also
   possible given his relative immunocompromised state.  PCP [**Name Initial (PRE) 419**]. PE
   unlikely as he is not tachycardic, has no pleuritic pain, and no LE
   swelling. He has not had any blood transfusions so not TRALI. His ABG
   suggests a primary respiratory acidosis and hypercarbia despite having
   a RR in 40's. His Aa gradient is elevated.
   - continue meropenam 500 IV Q HD for broad coverage of gm neg and
   anaerobes
   - cont Vanc/ Meropenem for HAP, azithro for atypicals
   - His [**4-12**] repeat Bglucan is also elevated at >500 with normal
   galactomannan
   - appreciate ID input: given his long indolent course, he is at risk
   for fungal and mold-> ideally vori or posi would be used, but vori
   can
t be used in HD, posi must be oral. The other [**Doctor Last Name **] is ampho which
   has many side effects, so will try micafungin although it has less mold
   coverage.
   - f/u cx data including induced sputum AFB, fungal, blood cx
   - strict NPO
   - check sputum eos, recheck sputum cytology if possible
   # Malnutrition: Has subclavian for TPN
   - TPN recs
   - strict NPO given aspiration risk
   - at this point, he may not be able to tolerate an open J tube
   placement which would require intubation
   #. ESRD on HD: Currently he does not make urine, HD MWF and will get
   T/Th UF
   - appreciate renal recs
   - normal HD session today
   - will receive albumin prior to HD per renal
   - renally dose all meds
   # Toe ulcer: currently does not look cellulitic, but is erythematous.
   He has hx of osteo
   - meropenam will also cover toe ulcer
   # Anemia: Hct was 30's on admission and has slowly trended down to 24.
   No obvious reports of bleeding. He does not have iron or B12/folate
   deficiency, and thus is most likely anemia of chronic disease
   - guaiac all stools
   - transfused x1
   # Thrombocytopenia: PLts for past year have been <100. Unclear
   etiology. Had HIT ab sent this admission after hct decreased to 30. HIT
   negative
   - continue to trend
   - transfuse for plt<10 or bleeding and <50
   # Crohns disease: s/p bowel resections and short gut
   - replete lytes
   - head of bed elevation for severe reflux, lanzoprazole
   #. Hypothyroid:
   -continue levothyroxine
   # ACCESS: PIV's,
   - L subclavian insertion site still appears slightly erythematous , but
   no growth from blood cultures sent peripherally or through line
   CODE STATUS: DNR/DNI
   - appreciate palliative care recs
   EMERGENCY CONTACT: [**First Name8 (NamePattern2) **] [**Known lastname 6029**] [**Telephone/Fax (1) 6030**] cell
   ICU Care
   Nutrition:
   TPN without Lipids - [**2175-4-15**] 04:51 AM 62.5 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2175-4-11**] 09:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNR / DNI
   Disposition: likely can c/o to floor today

2175-04-15 12:00:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Family meetings yesterday between family and medical team: ultimately
   patient and family decided to be DNR/DNI.
   No major events overnight.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Dicloxacillin
   Rash;
   Mercaptopurine
   Neutropenia; Th
   Last dose of Antibiotics:
   Vancomycin - [**2175-4-14**] 05:13 PM
   Meropenem - [**2175-4-14**] 06:12 PM
   Azithromycin - [**2175-4-14**] 06:14 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2175-4-15**] 12:21 AM
   Heparin Sodium (Prophylaxis) - [**2175-4-15**] 08:03 AM
   Other medications:
   Albuterol nebs, levothyroxine, mirtazapine,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-4-15**] 12:00 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (97
   HR: 65 (65 - 91) bpm
   BP: 115/59(73) {101/41(59) - 136/71(84)} mmHg
   RR: 24 (24 - 37) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  2,243 mL
                                                                    849 mL
   PO:
             TF:
   IVF:
                                                                    740 mL
                                                                    126 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    243 mL
                                                                    849 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   FiO2: 0.5 high flow
   SpO2: 98%
   ABG: ///30/
   Physical Examination
   General Appearance: cachectic, pleasant.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), Course b/L BS throughout
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent, L SC CVC
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.5 g/dL
   195 K/uL
   99 mg/dL
   3.3 mg/dL
   30 mEq/L
   3.4 mEq/L
   33 mg/dL
   101 mEq/L
   137 mEq/L
   29.6 %
   8.2 K/uL
        [image002.jpg]
                             [**2175-4-12**]  01:11 AM
                             [**2175-4-13**]  04:04 AM
                             [**2175-4-14**]  05:31 AM
                             [**2175-4-15**]  04:15 AM
   WBC
   10.0
   7.5
   8.2
   8.2
   Hct
   27.5
   25.7
   29.7
   29.6
   Plt
   97
   152
   195
   195
   Cr
   4.9
   3.5
   4.8
   3.3
   Glucose
   108
   105
   98
   99
   Other labs: PT / PTT / INR:16.2/42.1/1.4, Differential-Neuts:78.9 %,
   Band:0.0 %, Lymph:6.5 %, Mono:11.3 %, Eos:2.2 %, Albumin:2.7 g/dL,
   Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR:  L SC in place.  B/L basilar infiltrates with perhaps
   improvement in L base density.
   Microbiology: Sputum:  Yeast, AFB neg, No growth
   Assessment and Plan
   68 y/o M hx Crohns dz with esophageal involvement, numerous bowel
   resections and short gut syndrome with severe pulmonary disease
   including chronic aspiration, bronchiectasis, hx necrotizing pneumonia,
   hx "indolent MAC" who now presents with severe malnutrition, bilateral
   pulmonary infltrates and worsening hypoxia.
   # Hypoxic respiratory failure: I suspect that his current presentation
   is [**1-16**] aspiration pneumonia; however, he also has several other
   possible etiologies including HAP, fungal infection, MAC,
   non-infectious etiology BOOP reaction, malignancy and component of
   volume overload.   As review of imaging has demonstrated a slow but
   progressive pulmonary infiltrates over the last 4 months.
   - continue Vanc, meropenam and azitho
   -Repeat Beta-Glucan again elevated, will discuss with ID re: possible
   treatment of fungal/mold.
   - Repeat sputum for cytology given atypical cells seen on prior
   specimen.
   -Will discuss bronch +/- Biopsy and repeat cx
   - continue acapella valve QID
   - strict NPO
   - Continue HD today
    # Malnutrition: Has RIJ for TPN
   - TPN recs
   - J tube would be optimal for nutrition but high risk procedure
    #. ESRD on HD: Currently he does not make urine
    -appreciate renal recs
   - MWF schedule
   - will receive 25 gm albumin prior to HD per renal
   - renally dose all meds
    # Toe ulcer: currently does not look cellulitic, but is erythematous.
   He has hx of osteo
   - meropenam will also cover toe ulcer
    # Anemia: Hct was 30's on admission and has slowly trended down to 24.
   No obvious reports of bleeding. Has macrocytosis.
   - guaiac all stools
   - transfuse for HCT<21
   -B12/folate normal.  [**Doctor Last Name **] studies suggest ACD.
    # Thrombocytopenia: PLts for past year have been <100. Unclear
   etiology. Had HIT ab sent this admission after hct decreased to 30. HIT
   negative
   - continue to trend
    # Crohns disease: s/p bowel resections and short gut
   - replete lytes
   - head of bed elevation for severe reflux, lanzoprazole
    #. Hypothyroid:
   -continue levothyroxine
    # ACCESS: PIV's, RIJ CVC
    #CODE STATUS: DNR/DNI
    #EMERGENCY CONTACT: [**First Name8 (NamePattern2) **] [**Known lastname 6029**] [**Telephone/Fax (1) 6030**] cell
   ICU Care
   Nutrition:
   TPN without Lipids - [**2175-4-15**] 04:51 AM 62.5 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2175-4-11**] 09:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 30 minutes

2175-04-16 07:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2175-4-15**] 08:32 PM
 BLOOD CULTURED - At [**2175-4-16**] 04:33 AM
   - started Micafungin for fungal coverage (although suboptimal for mold
   coverage)
   - ID recs d/c Vanc
   Allergies:
   Dicloxacillin
   Rash;
   Mercaptopurine
   Neutropenia; Th
   Last dose of Antibiotics:
   Vancomycin - [**2175-4-14**] 05:13 PM
   Azithromycin - [**2175-4-15**] 04:00 PM
   Micafungin - [**2175-4-15**] 04:00 PM
   Meropenem - [**2175-4-15**] 06:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2175-4-16**] 12:33 AM
   Heparin Sodium (Prophylaxis) - [**2175-4-16**] 12:33 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-4-16**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.3
C (95.6
   HR: 78 (65 - 82) bpm
   BP: 89/40(52) {85/37(50) - 125/65(79)} mmHg
   RR: 29 (21 - 36) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  2,127 mL
                                                                    571 mL
   PO:
             TF:
   IVF:
                                                                    600 mL
                                                                    114 mL
   Blood products:
   Total out:
                                                                  2,500 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -373 mL
                                                                    571 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   GEN: pleasant
   HEENT: MMM
   PULM: anterior coarse end-expiratory crackles
   COR: RRR, no murmurs
   ABD: soft, NT/ND
   EXT: numerous bruises, no edema, no rash
   L sublavian line: site still slightly erythematous, no drainage/pus
   Labs / Radiology
   183 K/uL
   8.7 g/dL
   100 mg/dL
   4.3 mg/dL
   26 mEq/L
   3.1 mEq/L
   45 mg/dL
   101 mEq/L
   136 mEq/L
   28.4 %
   6.6 K/uL
        [image002.jpg]
                             [**2175-4-12**]  01:11 AM
                             [**2175-4-13**]  04:04 AM
                             [**2175-4-14**]  05:31 AM
                             [**2175-4-15**]  04:15 AM
                             [**2175-4-16**]  04:10 AM
   WBC
   10.0
   7.5
   8.2
   8.2
   6.6
   Hct
   27.5
   25.7
   29.7
   29.6
   28.4
   Plt
   97
   152
   195
   195
   183
   Cr
   4.9
   3.5
   4.8
   3.3
   4.3
   Glucose
   108
   105
   98
   99
   100
   Other labs: PT / PTT / INR:16.2/42.1/1.4, Differential-Neuts:78.9 %,
   Band:0.0 %, Lymph:6.5 %, Mono:11.3 %, Eos:2.2 %, Albumin:2.7 g/dL,
   Ca++:8.8 mg/dL, Mg++:2.3 mg/dL, PO4:4.9 mg/dL
   Imaging: CXR: opacification slightly improved at RLL
   Assessment and Plan
 MALNUTRITION
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   68 y/o M hx Crohns dz with esophageal involvement, numerous bowel
   resections and short gut syndrome with severe pulmonary disease
   including chronic aspiration, bronchiectasis, hx necrotizing pneumonia,
   hx "indolent MAC" who now presents with severe malnutrition, bilateral
   pulmonary infltrates and worsening hypoxia.
   # Hypoxic respiratory failure: Currently unclear etiology for his
   severe consolidations and hypoxia. It is likely multifactorial etiology
   including aspiration pneumonia, +/-HAP, fungal infection (given
   positive B-glucan, abumin will confound the test), pulmonary edema from
   volume overload in setting of ESRD and increased TPN. MAC is also
   possible given his relative immunocompromised state.  PCP [**Name Initial (PRE) 419**]. PE
   unlikely as he is not tachycardic, has no pleuritic pain, and no LE
   swelling. He has not had any blood transfusions so not TRALI. His ABG
   suggests a primary respiratory acidosis and hypercarbia despite having
   a RR in 40's. His Aa gradient is elevated.
   - continue meropenam 500 IV Q HD for broad coverage of gm neg and
   anaerobes
   - cont Vanc/ Meropenem for HAP, azithro for atypicals
   - His [**4-12**] repeat Bglucan is also elevated at >500 with normal
   galactomannan
   - appreciate ID input: given his long indolent course, he is at risk
   for fungal and mold-> ideally vori or posi would be used, but vori
   can
t be used in HD, posi must be oral. The other [**Doctor Last Name **] is ampho which
   has many side effects, so will try micafungin although it has less mold
   coverage.
   - f/u cx data including induced sputum AFB, fungal, blood cx
   - strict NPO
   - check sputum eos, recheck sputum cytology if possible
   # Malnutrition: Has subclavian for TPN
   - TPN recs
   - strict NPO given aspiration risk
   - at this point, he may not be able to tolerate an open J tube
   placement which would require intubation
   #. ESRD on HD: Currently he does not make urine, HD MWF and will get
   T/Th UF
   - appreciate renal recs
   - normal HD session today
   - will receive albumin prior to HD per renal
   - renally dose all meds
   # Toe ulcer: currently does not look cellulitic, but is erythematous.
   He has hx of osteo
   - meropenam will also cover toe ulcer
   # Anemia: Hct was 30's on admission and has slowly trended down to 24.
   No obvious reports of bleeding. He does not have iron or B12/folate
   deficiency, and thus is most likely anemia of chronic disease
   - guaiac all stools
   - transfused x1
   # Thrombocytopenia: PLts for past year have been <100. Unclear
   etiology. Had HIT ab sent this admission after hct decreased to 30. HIT
   negative
   - continue to trend
   - transfuse for plt<10 or bleeding and <50
   # Crohns disease: s/p bowel resections and short gut
   - replete lytes
   - head of bed elevation for severe reflux, lanzoprazole
   #. Hypothyroid:
   -continue levothyroxine
   # ACCESS: PIV's,
   - L subclavian insertion site still appears slightly erythematous , but
   no growth from blood cultures sent peripherally or through line
   CODE STATUS: DNR/DNI
   - appreciate palliative care recs
   EMERGENCY CONTACT: [**First Name8 (NamePattern2) **] [**Known lastname 6029**] [**Telephone/Fax (1) 6030**] cell
   ICU Care
   Nutrition:
   TPN without Lipids - [**2175-4-16**] 04:20 AM 62.5 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2175-4-11**] 09:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2175-04-16 09:16:00 Physician Attending Progress Note
Chief Complaint:
   I saw the patient, and was physically present with the ICU Resident for
   key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.  I know the patient well and have
   re reviewed his radiologic imaging and course.
   HPI:
   24 Hour Events:
   Micafungin started yesterday.
   Some mild hypothermia overnight (95), started on Bair Hugger.
   Subjectively feels breathing is stable today compared to last few days
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Dicloxacillin
   Rash;
   Mercaptopurine
   Neutropenia; Th
   Last dose of Antibiotics:
   Vancomycin - [**2175-4-14**] 05:13 PM
   Azithromycin - [**2175-4-15**] 04:00 PM
   Micafungin - [**2175-4-15**] 04:00 PM
   Meropenem - [**2175-4-15**] 06:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2175-4-16**] 12:33 AM
   Heparin Sodium (Prophylaxis) - [**2175-4-16**] 08:32 AM
   Other medications:
   Mirtazapine, levothyroxine, albuterol nebs Q6hr.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-4-16**] 09:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.6
C (96
   Tcurrent: 35.6
C (96
   HR: 75 (65 - 83) bpm
   BP: 97/46(59) {85/37(50) - 125/65(78)} mmHg
   RR: 32 (21 - 36) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  2,127 mL
                                                                    735 mL
   PO:
             TF:
   IVF:
                                                                    600 mL
                                                                    169 mL
   Blood products:
   Total out:
                                                                  2,500 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -373 mL
                                                                    735 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 91%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress, cachectic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), course b/l BS both
   anteriorly/laterally
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent, Mild erythema around CVC
   site.
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   183 K/uL
   100 mg/dL
   4.3 mg/dL
   26 mEq/L
   3.1 mEq/L
   45 mg/dL
   101 mEq/L
   136 mEq/L
   28.4 %
   6.6 K/uL
        [image002.jpg]
                             [**2175-4-12**]  01:11 AM
                             [**2175-4-13**]  04:04 AM
                             [**2175-4-14**]  05:31 AM
                             [**2175-4-15**]  04:15 AM
                             [**2175-4-16**]  04:10 AM
   WBC
   10.0
   7.5
   8.2
   8.2
   6.6
   Hct
   27.5
   25.7
   29.7
   29.6
   28.4
   Plt
   97
   152
   195
   195
   183
   Cr
   4.9
   3.5
   4.8
   3.3
   4.3
   Glucose
   108
   105
   98
   99
   100
   Other labs: PT / PTT / INR:16.2/42.1/1.4, Differential-Neuts:78.9 %,
   Band:0.0 %, Lymph:6.5 %, Mono:11.3 %, Eos:2.2 %, Albumin:2.7 g/dL,
   Ca++:8.8 mg/dL, Mg++:2.3 mg/dL, PO4:4.9 mg/dL
   Imaging: CXR:  SC CVC in place. Persistent, largely unchanged bibasilar
   infiltrates, though slightly better than 3 days ago.
   Microbiology: Sputum:  No new results.
   Assessment and Plan
   68 y/o M hx Crohns dz with esophageal involvement, numerous bowel
   resections and short gut syndrome with severe pulmonary disease
   including chronic aspiration, bronchiectasis, hx necrotizing pneumonia
   who now presents with severe malnutrition, bilateral pulmonary
   infltrates and worsening hypoxia.
   # Hypoxic respiratory failure: I suspect that his current presentation
   is [**1-16**] aspiration pneumonia; however, he also has several other
   possible etiologies including HAP, fungal infection, MAC,
   non-infectious etiology BOOP reaction, malignancy and component of
   volume overload.   As review of imaging has demonstrated a slow but
   progressive pulmonary infiltrates over the last 4 months.
   - continue meropenam.  Will d/c vancomycin (no staph isolated) and
   azithromycin (completed 5 days course)
   -Started on micafungin yesterday
   - Repeat sputum for cytology given atypical cells seen on prior
   specimen
 if he did have sq cell Ca this would be a critical piece of
   prognostic info
   -No plans for bronch/biopsy given risks involved
   - continue acapella valve QID
   - strict NPO
   - Continue HD today
   - Follow CXR, hoping to see further slow improvement with
   antimicrobials and NPO
    # Malnutrition: Has RIJ for TPN
   - Will continue with TPN for now despite Beta-Glucan because he has
   thus far had negative fungal cultures.
   - J tube would be optimal for nutrition but high risk procedure
    # ESRD on HD: Currently he does not make urine
   -appreciate renal recs
   - MWF schedule
   - will receive 25 gm albumin prior to HD per renal
   - renally dose all meds
    # Toe ulcer: currently does not look cellulitic, but is erythematous.
   He has hx of osteo
   - meropenam will also cover toe ulcer
    # Anemia: Hct was 30's on admission and has slowly trended down to 24.
   No obvious reports of bleeding. Has macrocytosis.
   - guaiac all stools
   - transfuse for HCT<21
   -B12/folate normal.  [**Doctor Last Name **] studies suggest ACD.
    # Thrombocytopenia: PLts for past year have been <100. Unclear
   etiology. Had HIT ab sent this admission after hct decreased to 30. HIT
   negative
   - counts improved now, continue to monitor
    # Crohns disease: s/p bowel resections and short gut
   - replete lytes
   - head of bed elevation for severe reflux, lanzoprazole
    #. Hypothyroid:
   -continue levothyroxine
   #CODE STATUS: DNR/DNI
   ICU Care
   Nutrition:
   TPN without Lipids - [**2175-4-16**] 04:20 AM 62.5 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2175-4-11**] 09:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition :Transfer to floor
   Total time spent: 30 minutes